US07790709B2
Preparation of (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-(2-ethoxy-3-methyl-benzyl)-N-methyl-acrylamide hydrochloride
According to the procedure of Example 1, except substituting (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and substituting (3-methyl-2-ethoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (114 mg, 17%) was prepared as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 8.42 (s, 1H), 8.33 (d, J=6.0 Hz, 1H), 8.13 (br s, 2H), 7.48 (dd, J=10.0, 5.1 Hz, 1H), 7.27 (d, J=9.3 Hz, 1H), 7.13 (dd, J=10.6, 4.4 Hz, 1H), 7.04-6.97 (m, 1H), 6.90-6.87 (m, 1H), 4.81-4.66 (m, 2H), 3.87-3.81 (m, 2H), 3.63-3.36 (m, 7H), 3.10-2.85 (m, 7H), 2.72 (s, 3H), 2.24 (s, 3H), 1.35 (t, J=4.2 Hz, 3H);

reactant | (E)-3-[6-amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)O)CN1CCN(CC1)C
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | (3-methyl-2-ethoxy-benzyl)methylamine | CC=1C(=C(CCN)C=CC1)OCC | C11H17NO
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-3-[6-Amino-5-(4-methyl-piperazin-1-ylmethyl)pyridin-3-yl]-N-(2-ethoxy-3-methyl-benzyl)-N-methyl-acrylamide hydrochloride | 114 mg, 17% | Cl.NC1=C(C=C(C=N1)/C=C/C(=O)N(C)CC1=C(C(=CC=C1)C)OCC)CN1CCN(CC1)C | InChI=1S/C25H35N5O2.ClH/c1-5-32-24-19(2)7-6-8-21(24)17-29(4)23(31)10-9-20-15-22(25(26)27-16-20)18-30-13-11-28(3)12-14-30;/h6-10,15-16H,5,11-14,17-18H2,1-4H3,(H2,26,27);1H/b10-9+;
